US07608716B2
A suspension of 4-hydroxy-1-(4-methoxyphenyl)-1,8-naphthyridin-2 (1H)-one (1.07 g, 4.0 mmol; prepared according to JP, A, 61-246183 (1986) and/or J. Med. Chem., 31, 2108 (1988)) in DMF (4 ml) was added sodium hydride (about 60%, 352 mg, 8.8 mmol, 2.2 eq.), and the mixture was stirred until the production of hydrogen was completed. Next, after phenylacetyl chloride (0.63 ml, 4.8 mmol, 1.2 eq.) was added, the mixture was stirred at room temperature, admixed with water, acidified with hydrochloric acid, and then filtered off to give precipitates which were washed with water. The resulting precipitate was suspended in DMF (8 mL) without purification, treated with hydrazine monohydrate (80%, 513 μl, 12.8 mmol, 3.2 eq.), and the mixture was stirred at 100 to 110° C. for 2 hours. The reaction mixture was admixed with water, and filtered off to give precipitates which were dried to afford 3-benzyl-5-(4-methoxyphenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4 (5H)-one (826 mg, 54%).

reactant | 4-hydroxy-1-(4-methoxyphenyl)-1,8-naphthyridin-2 (1H)-one | OC1=CC(N(C2=NC=CC=C12)C1=CC=C(C=C1)OC)=O | C15H12N2O3
reactant | sodium hydride | 8.8 mmol, 352 mg, 2.2 eq. | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | phenylacetyl chloride | 4.8 mmol, 0.63 ml, 1.2 eq. | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
reactant | hydrazine monohydrate | 12.8 mmol, 513 μl, 3.2 eq. | O.NN
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-benzyl-5-(4-methoxyphenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4 (5H)-one | 826 mg, 54% | C(C1=CC=CC=C1)C1=NNC2=C1C(N(C=1N=CC=CC21)C2=CC=C(C=C2)OC)=O | C23H18N4O2
